Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
direct current cardioversion
 
History of Present Illness:
Mr. ___ is a ___ year old M w/ PMH MVR s/p ___ ring ___,
HLD, HTN, CKD stage III, stroke (cardioembolic on Eliquis) who
presents with palpitations.

Reports has been on metoprolol for years and was trying to
eliminate it at end of ___. Reports was having fluttering and
noticed his heart beat was fast and cardiologist told him to go
back on it and thought he was feeling ok though still felt the
fluttering. Reports one week ago had event in the morning where
he reports got up to go to ___ - unsure if BM or urinated. 
Reports
felt diaphoretic and knew was going to pass out so laid on the
floor for a few hours. Reports since then gets very SOB and
palpitations with little exertion like going up the stairs.
Denies chest pain with exertion or at rest. Denies fever. 
Reports
cough though minimally productive. Denies n/v. Reports diarrhea
off and on for about one week. Denies dysuria, frequency.
In the ED, initial VS were: 97.5 129 124/69 19 98% RA.

Labs showed: Hgb 13.6, MCV 100, Plt 143, INR 1.8, Cr 1.5, BUN 
23,
trop neg x 1, BNP 6544. Clean UA.

Imaging showed: CXR with Mild cardiomegaly and hilar congestion
without frank edema or signs of pneumonia. 

Patient received: NS IVF, 6 mg adenosine and then 12 mg
adenosine, 5 mg IV metoprolol, 150 mg IV amiodarone bolus with 1
mg/min gtt, NS IVF 150 cc/hr.

After adenosine was given, rhythm was found to be Aflutter.

Atrius cardiology was consulted and recommended amiodarone gtt
and NPO for cardioversion tomorrow.

Transfer VS were: 97.5 110 ___ 99% RA.

On arrival to the floor, patient reports that he is feeling the
flutter in his chest. Denies chest pain. Feels lightheaded any
time he tries to walk. Denies leg swelling or orthopnea or PND.
Has never had a history of an arrhythmia before, but was on
metoprolol after his heart surgery.

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
Mitral valve prolapse s/p ___ ring
Obesity
Pericarditis
Hypercholesterolemia
Endocarditis:
Mitral valve regurgitation: due to IE and mitral valve prolapse

- infective endocarditis in ___ (S viridans) and recurrence in
___ (Cardiobacterium hominis) with MV repair in ___ ___. #36 ___ ring, ring annuloplasty, leaflet
resection of the posterior leaflet. Dr. ___ observe him to
have a leaflet flail and to have vegetations, which were 
negative
on Gram's stain in the operation room

- residual MR (___) TEE in ___ shows mild MR however
starting from ___ TTE with moderate MR stable with stable LV
size.

Generalized anxiety disorder
Osteopenia
Prostate cancer
Urethral stricture
CKD stage III
Hx CVA
 
Social History:
___
Family History:
FAMILY HISTORY: Father had CAD in setting of smoking.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  HR 120s
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: tachycardia, S1/S2, II/VI systolic murmur heard best at
LUSB and LLSB, gallops, or rubs  
LUNGS: small crackles at bases bilaterally. breathing 
comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. Weakness in
left upper arm, similar to prior stroke symptoms per patient.
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:  
VS: 97.4 PO 121/77 Sitting 67 18 96 RA 
GENERAL: NAD
CV: RRR, no m/r/g. JVP 10cm
Pulm: LCTAB
Ext: No ___ edema
 
Pertinent Results:
ADMISSION
___ 04:52PM BLOOD WBC-8.2 RBC-4.02* Hgb-13.6* Hct-40.3 
MCV-100* MCH-33.8* MCHC-33.7 RDW-14.4 RDWSD-52.4* Plt ___
___ 04:52PM BLOOD ___ PTT-31.8 ___
___ 04:52PM BLOOD Glucose-99 UreaN-23* Creat-1.5* Na-139 
K-4.4 Cl-101 HCO3-23 AnGap-15
___ 04:52PM BLOOD proBNP-6544*
___ 04:52PM BLOOD cTropnT-<0.01

CXR ___ IMPRESSION: 
Mild cardiomegaly and hilar congestion without frank edema or 
signs of
pneumonia.

DISCHARGE:

___ 02:56PM BLOOD WBC-9.5 RBC-3.79* Hgb-12.7* Hct-38.0* 
MCV-100* MCH-33.5* MCHC-33.4 RDW-14.5 RDWSD-52.8* Plt ___
___ 05:58AM BLOOD ___ PTT-32.4 ___
___ 02:56PM BLOOD Glucose-107* UreaN-18 Creat-1.4* Na-142 
K-4.4 Cl-103 HCO3-25 AnGap-14
___ 02:56PM BLOOD ALT-18 AST-17 AlkPhos-63 TotBili-1.6*
___ 02:56PM BLOOD Mg-1.8
___ 02:56PM BLOOD TSH-1.3
 
Brief Hospital Course:
Mr. ___ is a ___ year old M w/ ___ MVR s/p ___ ring ___, 
HLD, HTN, CKD stage III, stroke (cardioembolic on Eliquis) who 
presents with palpitations, found to be in atrial flutter, now 
s/p DCCV.

ACUTE ISSUES:
=============
#Aflutter, s/p cardioversion
Mr. ___ starting experiencing heart palpitations in the 
setting of eliminating metoprolol at the end of ___. He had a 
presyncopal event while toileting and presented to medical care. 
He was found to be in atrial flutter. He was started on an 
amiodarone drip and underwent a sucessful cardioversion on 
___ without incident. He remained in sinus rhythm throughout 
his admission. He was discharged on an oral amiodarone load. 
Baseline LFTs and TFTs were normal. He was continued on his home 
apixiban.

#Hypervolemia
Likely in the setting of atrial flutter. ProBNP was elevated to 
6544 on admission. He was diuresed with 20 mg IV Lasix boluses 
with good effect. Likely in the setting of losing atrial kick 
with aflutter. He was euvolemic on discharge.

___: Likely due to cardio-renal in setting of arrhythmia and
poor forward flow versus hypovolemia. Baseline Cr is 1.2, 
creatinine peaked at 1.5 on admission. Creatinine was monitored 
closely and medications were dosed renally as appropriate. Home 
lisinopril was held and restarted on ___.

CHRONIC ISSUES:
===============
#HTN: Lisinopril managed as above.
#HLD: Continued atorvastatin 40 mg daily

TRANSITIONAL ISSUES
[] Amiodarone taper: 400 mg BID from ___ - ___. 200 mg BID from 
___ to ___. 200 mg daily from ___ until directed by a 
cardiologist to stop.
[] Pt should have repeat TFTs and LFTs in 6 months
[] Pt should have baseline PFTs on discharge
[] please repeat electrolytes at first office visit to assess 
for resolution ___

NEW MEDICATIONS
- Amiodarone, 400 mg BID, see above for taper
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Atorvastatin 40 mg PO QPM 
3. Lisinopril 5 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Amiodarone 400 mg PO BID Duration: 1 Week 

RX *amiodarone 200 mg as dir tablet(s) by mouth as dir Disp #*70 
Tablet Refills:*3 
2.  Apixaban 5 mg PO BID  
3.  Atorvastatin 40 mg PO QPM  
4.  Lisinopril 5 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Atrial flutter
Hypervolemia
Acute kidney injury

SECONDARY DIAGNOSES
Hypertension
Hyperlipidemia
Chronic kidney disease
s/p embolic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr ___,  

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had a very fast heart beat in an 
abnormal rhythm.  

What happened while I was in the hospital?  
-You had a procedure called a cardioversion to bring your heart 
rate back to a normal rhythm.  You were also started on a 
medication called amiodarone to keep your heart in a normal 
rhythm.  Finally, you were given a medication called Lasix to 
remove some extra fluid from your body.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 
-  Please report to your doctor if you feel your heart beating 
fast again or if you feel short of breath or tired when walking.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  
 
Followup Instructions:
___